US09145429B2
1c. 5-Chloro-2-(2,3-dimethoxypropoxy)-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)nicotinonitrile D232
Into a 50-mL 3-neck-bottle purged and maintained with an inert atmosphere of nitrogen were placed a solution of 5,6-dichloro-2-(2,3-dimethoxypropoxy)nicotinonitrile (1.40 g, 4.59 mmol, 1.00 equiv, 95%) in DMSO (20 mL), benzo[c][1,2]oxaborole-1,5(3H)-diol (800 mg, 5.07 mmol, 1.10 equiv, 95%) and Cs2CO3 (1.88 g, 5.78 mmol, 1.20 equiv). The resulting solution was stirred for 2 h at 50° C. in an oil bath. The reaction mixture was then cooled and quenched by the addition of 20 mL of water. The resulting solution was extracted with 3×20 mL of ethyl acetate. The organic layers were combined, dried and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/petroleum ether (1:5). This resulted in 1.09 g (57%) of 5-chloro-2-(2,3-dimethoxypropoxy)-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)nicotinonitrile as a white solid. LC-MS (ES, m/z): 405 [M+H]+. 1H-NMR (300 MHz, DMSO-d6) δ (ppm) 9.27 (1H, m); 8.61 (1H, m); 7.82 (1H, d, J=8.1 Hz); 7.34 (1H, m); 7.26 (1H, m); 5.00 (2H, s); 4.12-4.17 (1H, m); 3.97-4.03 (1H, m); 3.25-3.30 (1H, m); 3.17 (6H, s).

reactant | 5,6-dichloro-2-(2,3-dimethoxypropoxy)nicotinonitrile | 4.59 mmol, 1.40 g, 1.00 equiv | ClC=1C(=NC(=C(C#N)C1)OCC(COC)OC)Cl | C11H12Cl2N2O3
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 5.07 mmol, 800 mg, 1.10 equiv | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 5.78 mmol, 1.88 g, 1.20 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-Chloro-2-(2,3-dimethoxypropoxy)-6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCC(COC)OC)OC1=CC2=C(B(OC2)O)C=C1 | C18H18BClN2O6
